US04005217
A mixture of 1-methoxycarbonyl-3-(2-aminophenyl)thiourea (10.9 g., 0.048 mole), maleic anhydride (4.7 g; 0.048 mole) and ethanol (200 ml) was boiled under reflux with stirring for one hour. The clear solution was allowed to cool and the crystals which deposited were filtered off. These were recrystallised once from ethanol and once from a mixture of acetone and petroleum spirit (b.p. 60°-80° C.) to give 1-methoxycarbonyl-3-[2-(3-carboxyacrylamido)phenyl]thiourea (4.4 g) m.p. 170°-173° C. (with decomposition).

reactant | 1-methoxycarbonyl-3-(2-aminophenyl)thiourea | 0.048 mole, 10.9 g | COC(=O)NC(=S)NC1=C(C=CC=C1)N | C9H11N3O2S
reactant | maleic anhydride | 0.048 mole, 4.7 g | C1(\C=C/C(=O)O1)=O | C4H2O3
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1-methoxycarbonyl-3-[2-(3-carboxyacrylamido)phenyl]thiourea | 4.4 g | COC(=O)NC(=S)NC1=C(C=CC=C1)NC(C=CC(=O)O)=O | C13H13N3O5S
